US04233299
4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide
1.23 gm (4.5 millimols) of 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid chloride-1,1-dioxide were dissolved in 10 ml of dimethylformamide and 1.0 gm (9 millimols) of 2-amino-5-methyl-thiazole was added in portions. The reaction mixture was stirred at room temperature for 24 hours, and then 40 ml of water were added. The mixture was stirred at room temperature for 20 minutes, and the precipitate which had formed was filtered off, washed and dried. After recrystallization from ethylene chloride 0.4 gm (25% of theory) of 4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide were obtained.

reactant | 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid chloride-1,1-dioxide | 4.5 millimols, 1.23 gm | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)Cl | C10H8ClNO4S
reactant | 2-amino-5-methyl-thiazole | 9 millimols, 1.0 gm | NC=1SC(=CN1)C | C4H6N2S
reactant | water | 40 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2SC(=CN2)C | C14H13N3O4S2
